US05037825
4.9 g of 2,3,4,5-tetrahydro-α-methyl-1-benzoxepine-8-methanol were dissolved in 50 ml of acetonitrile and treated with 13 g of triphenylphosphine hydrobromide. The reaction mixture was stirred at 40° C. for 24 hours. Thereafter, the majority of the solvent was removed under reduced pressure and the residue was partitioned between hexane and ethanol/water (8:2). The heavy phase was evaporated and dried, whereby 11.96 g of white phosphonium salt were obtained. 6.29 g of phosphonium salt were dissolved in 13 ml of butylene oxide, treated with 2.6 g of ethyl 4-formylbenzoate and heated to reflux for 18 hours. Thereafter, the majority of the solvent was removed under reduced pressure and the residue was partitioned between hexane and ethanol/water (8:2). The light phase was dried over magnesium sulfate and evaporated. Chromatography on silica gel (petroleum ether/ethyl acetate (97:3)) and recrystallization from hexane yielded 1.4 g of ethyl p-[(E)-2-(2,3,4,5-tetrahydro-1-benzoxepin-8-yl)propenyl]benzoate, m.p. 71°-72° C.

reactant | phosphonium | 6.29 g | [PH4+]
reactant | ethyl 4-formylbenzoate | 2.6 g | C(=O)C1=CC=C(C(=O)OCC)C=C1 | C10H10O3
reactant | butylene oxide | 13 ml | C1CCCO1 | C4H8O
product | ethyl p-[(E)-2-(2,3,4,5-tetrahydro-1-benzoxepin-8-yl)propenyl]benzoate | 1.4 g | O1CCCCC2=C1C=C(C=C2)/C(=C/C2=CC=C(C(=O)OCC)C=C2)/C | C22H24O3
